US09302991B2
<Step-1>: 2-amino-6-methyl-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide (single enantiomer)
The title compound is prepared in 54% yield (110 mg, clear pale yellow oil) from 1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (150 mg, 0.56 mmol, Amine-17, single enantiomer) and 2-amino-6-methylpyrimidine-4-carboxylic acid (85 mg, 0.56 mmol) by the similar manner in Step-1 of Example 8.

reactant | 1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 0.56 mmol, 150 mg | Cl.CC=1C=C(C=NC1OCC(F)(F)F)C(C)N
reactant | 2-amino-6-methylpyrimidine-4-carboxylic acid | 0.56 mmol, 85 mg | NC1=NC(=CC(=N1)C(=O)O)C | C6H7N3O2
product | 2-amino-6-methyl-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide | 54% yield | NC1=NC(=CC(=N1)C(=O)NC(C)C=1C=NC(=C(C1)C)OCC(F)(F)F)C | C16H18F3N5O2
